US09403801B2
3-(9-((5-chloro-2-((1,5-dimethyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of 5-chloro-N2-(1,5-dimethyl-1H-pyrazol-3-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (200.5 mg, 0.5142 mmol) in dichloromethane (28 mL) and N,N-dimethylformamide (7 mL) were added 2-cyanoacetic acid (110.3 mg, 1.297 mmol), N,N-diethylethanamine (156.5 mg, 1.547 mmol) and HATU (585.4 mg, 1.540 mmol). The mixture was stirred at room temperature for 4 h and concentrated in vacuo. The residue was purified by flash silica gel column chromatography (DCM/MeOH (v/v)=50/1 to 10/1) to give the title compound as a white solid (128.5 mg, 54.68%).

reactant | 5-chloro-N2-(1,5-dimethyl-1H-pyrazol-3-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.5142 mmol, 200.5 mg | ClC=1C(=NC(=NC1)NC1=NN(C(=C1)C)C)NC1CCC2(CCNCC2)CC1 | C19H28ClN7
reactant | 2-cyanoacetic acid | 1.297 mmol, 110.3 mg | C(#N)CC(=O)O | C3H3NO2
reactant | N,N-diethylethanamine | 1.547 mmol, 156.5 mg | C(C)N(CC)CC | C6H15N
reactant | HATU | 1.540 mmol, 585.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 28 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 3-(9-((5-chloro-2-((1,5-dimethyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 128.5 mg, 54.68% | ClC=1C(=NC(=NC1)NC1=NN(C(=C1)C)C)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1 | C22H29ClN8O
